US05110956
5-Bromo-6-isopropyl-1,3-benzodioxole
2.94 g of 5-isopropyl-1,3-benzodioxole was dissolved in 30 ml of carbon tetrachloride to obtain a solution. A solution of 3.15 g of bromine in 5 ml of carbon tetrachloride was dropwise added to the solution at a temperature of -5° to 5° C. The obtained mixture was stirred at 10° C. for 8.5 hours. Nitrogen gas was passed through the resulting mixture, followed by the addition of a saturated aqueous solution of sodium hydrogencarbonate and an aqueous solution of sodium thiosulfate. The obtained mixture was extracted with chloroform and the organic layer was washed with a saturated aqueous solution of common salt, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to obtain 4.38 g of the title compound as a crude oil.

reactant | 5-isopropyl-1,3-benzodioxole | 2.94 g | C(C)(C)C1=CC2=C(OCO2)C=C1 | C10H12O2
reactant | bromine | 3.15 g | BrBr | Br2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-6-isopropyl-1,3-benzodioxole | 4.38 g | BrC1=CC2=C(OCO2)C=C1C(C)C | C10H11BrO2
